US04385069
15.9 g (0.1 mol) of 2,6-dimethyl-N-propargylaniline and 8 g (0.1 mol) of pyridine were heated to the boil in 100 ml of tetrahydrofuran, and 13 g (0.1 mol) of furan-2-carboxylic acid chloride were added carefully. The reaction mixture was stirred under reflux for 15 minutes and then concentrated by distilling off the solvent in vacuo. The residue was taken up in methylene chloride and the methylene chloride mixture was washed with water. The organic phase was separated off, dried over sodium sulphate and concentrated. After triturating with petroleum ether, the residue crystallized. 22.5 g (89% of theory) of 2,6-dimethyl-N-(2-furoyl)-N-propargyl-aniline of melting point 109°-112° C. were obtained.

reactant | 2,6-dimethyl-N-propargylaniline | 0.1 mol, 15.9 g | CC1=C(NCC#C)C(=CC=C1)C | C11H13N
reactant | pyridine | 0.1 mol, 8 g | N1=CC=CC=C1 | C5H5N
reactant | furan-2-carboxylic acid chloride | 0.1 mol, 13 g | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2,6-dimethyl-N-(2-furoyl)-N-propargyl-aniline | 22.5 g, 89% | CC1=C(N(CC#C)C(=O)C=2OC=CC2)C(=CC=C1)C | C16H15NO2
